US08003649B2
Saturated aqueous NaHCO3 solution (10 mL) was added to a stirred solution of 3,6-dichloropyridazine (0.968 g, 6.5 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (2.010 g, 6.50 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.376 g, 0.33 mmol) in DME (20 mL). The vessel was flushed with nitrogen and the initial suspension was heated at 80° C. for 9 hours. The reaction mixture was diluted with DCM and washed with water. The organic phase was dried over MgSO4 and evaporated. The crude product was purified by MPLC silica chromatography, elution gradient 35 to 45% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford tert-butyl 4-(6-chloropyridazin-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate (0.929 g, 48.3%) as a colourless crystalline solid.

reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
reactant | 3,6-dichloropyridazine | 6.5 mmol, 0.968 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 6.50 mmol, 2.010 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
solvent | DME | 20 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.33 mmol, 0.376 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(6-chloropyridazin-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.929 g, 48.3% | ClC1=CC=C(N=N1)C1=CCN(CC1)C(=O)OC(C)(C)C | C14H18ClN3O2
